US05536737
d) (S)-2-[[(S)-2-(Hydroxyacetyl)-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide
(S)-N-(Phenylmethyl)-2-[[(S)-2-[(phenylmethyloxy)acetyl]-1-pyrrolidinyl]carbonyl]-1-pyrrolidinecarboxamide (40.0 g) was dissolved in a mixed solvent of methanol (200 ml), water (40 ml) and acetic acid (20 ml). Palladium-black (4.0 g) was added and the mixture was stirred at room temperature under a hydrogen atmosphere for 3.5 hours. The catalyst in the reaction mixture was filtered off and the filtrate was concentrated to give the title compound (25.8 g).

reactant | (S)-N-(Phenylmethyl)-2-[[(S)-2-[(phenylmethyloxy)acetyl]-1-pyrrolidinyl]carbonyl]-1-pyrrolidinecarboxamide | 40.0 g | C1(=CC=CC=C1)CNC(=O)N1[C@@H](CCC1)C(=O)N1[C@@H](CCC1)C(COCC1=CC=CC=C1)=O | C26H31N3O4
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 40 ml | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | Palladium-black | 4.0 g | [Pd] | Pd
product | (S)-2-[[(S)-2-(Hydroxyacetyl)-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide | 25.8 g | OCC(=O)[C@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(=O)NCC1=CC=CC=C1 | C19H25N3O4
